US06638929B2
4-(4-Chloro-2-fluorophenylamino)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile
A solution of 237 mg (0.97 mmol) of 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile in 6 mL of 2-ethoxyethanol containing 0.15 mL (1.36 mmol) of 4-chloro-2-fluoroaniline and 112 mg of pyridine hydrochloride is heated at reflux temperature for 30 hours. The reaction mixture is cooled to room temperature and partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Diethyl ether is added to the residue and the resultant solid is collected by filtration, washing with hexane to give 225 mg (66%) of an off-white solid, mp 250-251° C.

reactant | 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 0.97 mmol, 237 mg | ClC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C12H5ClN2S
reactant | 2-ethoxyethanol | 1.36 mmol, 6 mL | C(C)OCCO | C4H10O2
reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | pyridine hydrochloride | 112 mg | Cl.N1=CC=CC=C1
product | 4-(4-Chloro-2-fluorophenylamino)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 225 mg, 66% | ClC1=CC(=C(C=C1)NC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1)F | C18H9ClFN3S
